US07758757B2
FIG. 2 illustrates the decrease in concentration of hydrazine in solution over time at 50° C. after the addition of PVPP. FIG. 3 also illustrates the decrease in concentration of hydrazine in solution over time at 50° C. after the addition of PVPP. FIG. 4 illustrates the reaction between trinitrobenzene sulfonic acid and hydrazine to form hexanitrobenzene, used to detect the concentration of hydrazine in solution.

reactant | hydrazine | NN | H4N2
reactant | PVPP | C=CN1CCCC1=O | C6H9NO
reactant | trinitrobenzene sulfonic acid | [N+](=O)([O-])C1=C(C(=C(C=C1)S(=O)(=O)O)[N+](=O)[O-])[N+](=O)[O-] | C6H3N3O9S
product | hexanitrobenzene | [N+](=O)([O-])C1=C(C(=C(C(=C1[N+](=O)[O-])[N+](=O)[O-])[N+](=O)[O-])[N+](=O)[O-])[N+](=O)[O-] | C6N6O12
